US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 3-[6-{2-[dimethylamino]ethoxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid was reacted with 3-aminoisoxazole to give 3-[6-{2-[Dimethylamino]ethoxy}-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide; NMR Spectrum: (DMSOd6) 2.17 (s, 3H), 2.25 (s, 6H), 2.70 (m, 2H), 4.19 (m, 2H), 7.04 (s, 1H), 7.50 (d, 1H), 7.60 (m, 2H), 7.72 (m, 1H), 8.07 (m, 2H), 8.20 (m, 1H), 8.83 (s, 1H), 11.45 (s, 1H); Mass Spectrum: M+H+ 434.

reactant | 3-[6-{2-[dimethylamino]ethoxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | CN(CCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O)C | C20H21N3O4
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-[6-{2-[Dimethylamino]ethoxy}-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | CN(CCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O)C | C23H23N5O4
